US20010001800A1
2,3-Dimethyl-6-nitroaniline was acetylated in acetic acid by using 1 equivalence of acetic anhydride, and the product was recrystallized from ethanol. The resulting 3-acetamido-4-nitroxylene was dissolved in boiled water containing magnesium sulfate. To the solution, 6 equivalences of potassium permanganate suspended in water was added in several portions, and the solution was refluxed until purple color disappeared. The hot reaction mixture was filtered and cooled, and then the filtrate was made acidic with hydrochloric acid and extracted with ethyl acetate. The resulting 3-acetamido-4-nitrophthalic acid was dehydrated in acetic anhydride using acetyl chloride. The reaction mixture was concentrated under reduced pressure, and then a small quantity of anhydrous methylene chloride was added to the residue and the deposited solid was collected by filtration to obtain 3-acetamido-4-nitrophthalic anhydride.

reactant | 2,3-Dimethyl-6-nitroaniline | CC1=C(N)C(=CC=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-acetamido-4-nitrophthalic anhydride | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1[N+](=O)[O-] | C10H6N2O6
